US08202891B2
1-(4-Dimethylamino-piperidin-1-yl)-2-hydroxy-2,2-di-thiophen-2-ylethanone
To a stirred solution of 2-thiopheneglyoxylic acid (1.0 g, 6.4 mmol) in DCM (100 mL, 2 mol), was added oxalyl chloride (596 μL, 7 mmol) and a catalytic amount of DMF. The mixture was stirred for 2 hours and then was cooled at 0° C. in an ice bath. Dimethyl-piperidin-4-ylamine (821 mg, 6.4 mmol), DIPEA (1.7 mL, 9.6 mmol) and DMAP (20 mg, 0.1 mmol) were added, and the mixture was stirred for 2 hours. The solvent was removed under reduced pressure and the crude mixture was then dissolved in DCM (60 mL), washed with a saturated bicarbonate solution (50 mL), and dried over MgSO4. The solvent was removed under reduced pressure and the crude material was then dissolved in THF (50 mL, 0.6 mol) and cooled to 0° C. in an ice bath. To the stirred solution was added 1.0 M thiophen-2-yl magnesium bromide in THF (7.7 mL, 7.7 mmol) was added. The mixture was stirred for 30 minutes, then quenched with a saturated bicarbonate solution (50 mL) and DCM (50 mL). The organic was taken and dried over MgSO4, and the solvent was removed under reduced pressure, to afford the title compound (1.5 g).

reactant | 2-thiopheneglyoxylic acid | 6.4 mmol, 1.0 g | S1C(=CC=C1)C(C(=O)O)=O | C6H4O3S
reactant | DCM | 2 mol, 100 mL | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 7 mmol, 596 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethyl-piperidin-4-ylamine | 6.4 mmol, 821 mg | CN(C1CCNCC1)C | C7H16N2
reactant | DIPEA | 9.6 mmol, 1.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 0.6 mol, 50 mL | C1CCOC1 | C4H8O
reactant | thiophen-2-yl magnesium bromide | 1.0 M | S1C(=CC=C1)[Mg]Br
reactant | THF | 7.7 mmol, 7.7 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.1 mmol, 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(4-Dimethylamino-piperidin-1-yl)-2-hydroxy-2,2-di-thiophen-2-ylethanone | 1.5 g | CN(C1CCN(CC1)C(C(C=1SC=CC1)(C=1SC=CC1)O)=O)C | C17H22N2O2S2
